US08865736B2
Synthesis of 3-Fluoro-5-hexyloxy benzamide
To a solution of 3-amino-5-hexyloxy benzamide (0.9 g, 3.8 mmol) in tetrafluoroboric acid (20 ml), a solution of sodium nitrite (0.315 mg, 4.6 mmol) in water (5 ml) was added at 0° C. and stirred for 1 hr. Later it was allowed to come to RT and stirred for 1 hr followed by heating at 60° C. for 2 hrs. It was then basify to pH=14 using saturated NaOH solution and extracted with dichloromethane (3×30 ml). The solvent was evaporated to yield crude product, which was purified by column chromatography using silica gel (230-400 mesh) and dichloromethane as an eluent (100 mg, 11%). 1H NMR (DMSO-d6, 400 MHz with D2O): δ 0.88 (t, J=7.2 Hz, 3H), 1.32 (m, 2H), 1.41 (m, 4H), 1.72 (m, 2H), 4.0 (t, J=7.2 Hz, 2H), 6.97 (m, 1H), 7.22 (m, 1H), 7.28 (m, 1H), 7.52 (br s, 1H), 8.03 (br s, 1H). MS ES+ (238.0, 239.0), HPLC (method 7) Rt=11.34 min.

reactant | 3-amino-5-hexyloxy benzamide | 3.8 mmol, 0.9 g | NC=1C=C(C(=O)N)C=C(C1)OCCCCCC | C13H20N2O2
reactant | sodium nitrite | 4.6 mmol, 0.315 mg | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | tetrafluoroboric acid | 20 ml | F[B-](F)(F)F.[H+]
solvent | water | 5 ml | O | H2O
product | 3-Fluoro-5-hexyloxy benzamide | FC=1C=C(C(=O)N)C=C(C1)OCCCCCC | C13H18FNO2
